US07691882B2
2-Benzyloxy-5-((E)-2-nitro-vinyl)-pyridine
To a solution of 6-benzyloxy-pyridin-3-carbaldehyde (4.87 g, 22.8 mmol) described in Manufacturing Example 12-1-2 in acetic acid (30 mL) were added nitromethane (6.96 g, 114 mmol) and ammonium acetate (3.51 g, 45.6 mmol) under nitrogen atmosphere at room temperature, which was stirred for 2.5 hours at 110° C. The reaction mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure to obtain the title compound (5.60 g, 96%) as a crude product.

reactant | 6-benzyloxy-pyridin-3-carbaldehyde | 22.8 mmol, 4.87 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C=O | C13H11NO2
reactant | nitromethane | 114 mmol, 6.96 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 45.6 mmol, 3.51 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-Benzyloxy-5-((E)-2-nitro-vinyl)-pyridine | 5.60 g, 96% | C(C1=CC=CC=C1)OC1=NC=C(C=C1)\C=C\[N+](=O)[O-] | C14H12N2O3
